US04481142
9-chloro-7-(2-chlorophenyl)-6,7-dihydro-2-methyl-5H-pyrimido[5,4-d][2]benzazepine dihydrochloride
A mixture of 3.7 g (10.5 mmole) of 9-chloro-7-(2-chlorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine, 1.3 g of zinc dust, and 40 ml of acetic acid in 90 ml of methylene chloride was stirred at -15° C. to -20° C. for 30 min. The mixture was filtered over hyflo, and the filtrate was basified with cold dilute aqueous sodium hydroxide and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a yellow oil. The yellow oil was crystallized from an excess of 6% methanolic hydrogen chloride to give the title compound as a white solid, m.p. 272°-274° C. Recrystallization from methanol gave colorless rods, m.p. 272°-274° C.

reactant | 9-chloro-7-(2-chlorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine | 10.5 mmole, 3.7 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC(=N3)C)C=C1 | C19H13Cl2N3
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 1.3 g | [Zn] | Zn
product | 9-chloro-7-(2-chlorophenyl)-6,7-dihydro-2-methyl-5H-pyrimido[5,4-d][2]benzazepine dihydrochloride | Cl.Cl.ClC1=CC2=C(C3=C(CNC2C2=C(C=CC=C2)Cl)C=NC(=N3)C)C=C1 | InChI=1S/C19H15Cl2N3.2ClH/c1-11-22-9-12-10-23-19(15-4-2-3-5-17(15)21)16-8-13(20)6-7-14(16)18(12)24-11;;/h2-9,19,23H,10H2,1H3;2*1H
